US04595677
2.5 g of Z-Arg-Pro-Phe-His-OMe are dissolved in 25 ml of 95% strength methanol and, after the addition of 250 mg of Pd-on-carbon, hydrogenated with CO2 -absorption until saturation. The catalyst is filtered off and the filtrate is concentrated to dryness, yielding H-Arg-Pro-Phe-His-OMe in the form of an amorphous powder; Rf (E)=0.05; Rf (C)=0.3.

reactant | Z-Arg-Pro-Phe-His-OMe | 2.5 g | N([C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CNC=N2)C(=O)OC)CCC1)C(=O)OCC1=CC=CC=C1 | C35H45N9O7
reactant | CO2 | C(=O)=O | CO2
solvent | methanol | CO | CH4O
product | H-Arg-Pro-Phe-His-OMe | N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CNC=N2)C(=O)OC)CCC1 | C27H39N9O5
